US06071925
8-(5,8-Dichloro-1,2,3,4-tetrahydro-2-naphthyl)-3-ethyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride
The title compound, m.p.>250° C. and MS: m/e=458.3, 460.3 (M+H+) was prepared in accordance with general method of example 4 from 8-(5,8-dichloro-1,2,3,4-tetrahydro-2-naphthyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one and ethyl bromide.

reactant | 8-(5,8-dichloro-1,2,3,4-tetrahydro-2-naphthyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | ClC1=C2CCC(CC2=C(C=C1)Cl)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C23H25Cl2N3O
reactant | ethyl bromide | C(C)Br | C2H5Br
product | 8-(5,8-Dichloro-1,2,3,4-tetrahydro-2-naphthyl)-3-ethyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride | Cl.ClC1=C2CCC(CC2=C(C=C1)Cl)N1CCC2(C(N(CN2C2=CC=CC=C2)CC)=O)CC1 | InChI=1S/C25H29Cl2N3O.ClH/c1-2-28-17-30(18-6-4-3-5-7-18)25(24(28)31)12-14-29(15-13-25)19-8-9-20-21(16-19)23(27)11-10-22(20)26;/h3-7,10-11,19H,2,8-9,12-17H2,1H3;1H
